US08183271B2
Methyl 4-((3E)-4-{2-[(4-tert-butylbenzyl)oxy]phenyl}-2-{2-[4-(1H-tetrazol-5-yl)phenyl]ethyl}-but-3-en-1-yl)benzoate
A solution of 1000 mg (1.79 mmol) of methyl 4-{(3E)-4-{2-[(4-tert-butylbenzyl)oxy]phenyl}-2-[2-(4-cyanophenyl)ethyl]but-3-en-1-yl}benzoate in 10 ml of toluene is mixed with 2851 mg (24.7 mmol) of trimethylsilyl azide and 618 mg (2.47 mmol) of di-n-butyltin oxide and heated at 80° C. for 12 h. After cooling to room temperature, the mixture is washed with saturated sodium bicarbonate solution. The organic phase is separated off, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the filtrate is concentrated to dryness. The resulting crude product is purified by chromatography on a silica gel column (mobile phase: cyclohexane/ethyl acetate 2:1→1:2). 648 mg (1.08 mmol, 60% of theory) of a colorless oil are obtained.

reactant | methyl 4-{(3E)-4-{2-[(4-tert-butylbenzyl)oxy]phenyl}-2-[2-(4-cyanophenyl)ethyl]but-3-en-1-yl}benzoate | 1.79 mmol, 1000 mg | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CC2=CC=C(C(=O)OC)C=C2)CCC2=CC=C(C=C2)C#N)C=C1 | C38H39NO3
reactant | trimethylsilyl azide | 24.7 mmol, 2851 mg | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 2.47 mmol, 618 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-((3E)-4-{2-[(4-tert-butylbenzyl)oxy]phenyl}-2-{2-[4-(1H-tetrazol-5-yl)phenyl]ethyl}-but-3-en-1-yl)benzoate | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CC2=CC=C(C(=O)OC)C=C2)CCC2=CC=C(C=C2)C2=NN=NN2)C=C1 | C38H40N4O3
